US04087431
To a reaction flask containing 400 milliliters of water was added 30 grams (0.11 mole) of 3,5,6-trichloro-4-hydrazinopicolinic acid and 4.5 grams (0.11 mole) of sodium hydroxide dissolved in 25 milliliters of water. The reaction was heated to reflux and maintained under reflux while an additional 4.5 grams of sodium hydroxide dissolved in 25 milliliters of water was added dropwise over 50 minutes. The resulting solution was thereafter heated an additional 45 minutes under reflux and cooled to room temperature. The reaction mixture was mixed with 100 milliliters of methylene chloride and the solution acidified with 35 milliliters of concentrated hydrochloric acid. The two phases which formed were separated and the aqueous layer extracted twice with methylene chloride. The extracts were combined and dried over magnesium sulfate and the solvent evaporated to give 13.1 grams (62 percent of theoretical) of 3,6-dichloropicolinic acid.

reactant | 3,5,6-trichloro-4-hydrazinopicolinic acid | 0.11 mole, 30 grams | ClC=1C(=NC(=C(C1NN)Cl)Cl)C(=O)O | C6H4Cl3N3O2
reactant | sodium hydroxide | 0.11 mole, 4.5 grams | [OH-].[Na+]
reactant | sodium hydroxide | 4.5 grams | [OH-].[Na+]
reactant | methylene chloride | 100 milliliters | C(Cl)Cl | CH2Cl2
reactant | hydrochloric acid | 35 milliliters | Cl | ClH
solvent | water | 25 milliliters | O | H2O
solvent | water | 25 milliliters | O | H2O
solvent | water | 400 milliliters | O | H2O
product | 3,6-dichloropicolinic acid | 13.1 grams, 62 percent | ClC=1C(=NC(=CC1)Cl)C(=O)O | C6H3Cl2NO2
